US09421532B2
A 30-mL eggplant flask equipped with a magnetic stirrer was heat dried while pumping to a vacuum of 5 Pa before its interior was purged with nitrogen atmosphere. To the flask, 4-methoxyacetophenone (151 mg, 1.0 mmol) and 1,1,1,3,3-pentamethyldisiloxane (372 mg, 2.5 mmol) were added through a syringe, and dissolved in benzene (0.5 mL). To the solution, iron complex A (5.0 mg, 0.01 mmol) was added as catalyst. The solution was stirred at room temperature for 6 hours. At 0° C., tetrabutylammonium fluoride in THF (1 M, 1 mL) was then added to the solution, which was stirred at 0° C. for 1 hour. The solvents were distilled off in vacuum. The crude product was purified by silica gel-packed column chromatography using hexane/ethyl acetate (3/1) as developing solvent, obtaining 1-(4-methoxyphenyl)ethanol (140 mg, 0.92 mmol, 92%). The results are shown as Entry 1 in Table 7. The resulting alcohol was identified for geometry by 1H and 13C-NMR spectroscopy.

reactant | 4-methoxyacetophenone | 1.0 mmol, 151 mg | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | 1,1,1,3,3-pentamethyldisiloxane | 2.5 mmol, 372 mg | C[Si](O[SiH](C)C)(C)C | C5H16OSi2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | 0.5 mL | C1=CC=CC=C1 | C6H6
solvent | THF | 1 M, 1 mL | C1CCOC1 | C4H8O
product | 1-(4-methoxyphenyl)ethanol | 0.92 mmol, 140 mg, 92% | COC1=CC=C(C=C1)C(C)O | C9H12O2
